US06693123B2
4-Nitro-2-phenylbenzoic acid (10.5 g, 43.2 mmol) and tin(II) chloride dihydrate (34.1 g, 0.15 mol) were combined and refluxed in 250 mL ethyl acetate for 1 hour. An equal volume of water was added followed by solid NaHCO3 to pH 8. The mixture was extracted with ethyl acetate. The combined ethyl acetate extracts were washed with brine and concentrated to a thick oil. The oil was diluted with ether and excess anhydrous HCl was added. The resulting precipitate was collected and dried to provide 4-Amino-2-phenylbenzoic acid hydrochloride (3.2 g). MS m/e 214 (M+H)+. 1H NMR (d6-DMSO, 300 MHz) δ 6.65 (d, J=3 Hz, 1H), 6.79 (m, 1H), 7.20-7.72 (m, 6H).

reactant | 4-Nitro-2-phenylbenzoic acid | 43.2 mmol, 10.5 g | [N+](=O)([O-])C1=CC(=C(C(=O)O)C=C1)C1=CC=CC=C1 | C13H9NO4
reactant | tin(II) chloride dihydrate | 0.15 mol, 34.1 g | O.O.[Sn](Cl)Cl
reactant | water | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 4-Amino-2-phenylbenzoic acid hydrochloride | 3.2 g | Cl.NC1=CC(=C(C(=O)O)C=C1)C1=CC=CC=C1 | InChI=1S/C13H11NO2.ClH/c14-10-6-7-11(13(15)16)12(8-10)9-4-2-1-3-5-9;/h1-8H,14H2,(H,15,16);1H
